US06320041B1
Preparation of Pentafluorophenyl 10-hydroxydecanoate
The 10-hydroxydecanoic acid (4.5 g, 23.9 mmole) was dried by co-evaporation with anhydrous pyridine twice. The residue was dissolved in anhydrous pyridine (100 mL) and triethylsilyl chloride (5.6 mL, 33.5 mmole) was added to the stirring solution at room temperature. Completion of the reaction was observed at 30 minutes by silica gel tlc (ethyl actetate, acetic acid (AcOH), heptane; 16%/1%/83%; Rf 0.31). The solvent was evaporated in vacuo. The product was carried on to the next reaction without purification. Crude triethylsilyl protected 10-hydroxydecanoic acid was dissolved in dichloromethane (20 mL) and chilled in an ice bath. Triethylamine (4.0 mL, 28.7 mmole) was added followed by the slow addition of pentafluorophenyl trifluoroacetate (2.7 mL, 15.9 mmole). The reaction was determined complete at 3 hours by silica gel tlc (ethyl actetate, acetic acid, heptane; 16%/1%/83%; Rf=0.80). The solvent was evaporated in vacuo. The hydroxyl was deprotected in 30 minutes with THF:AcOH:H2O (34 mL, 8:8:1), as observed by silica gel tlc (ethyl acetate, acetic acid, heptane; 16%/1%/83%; Rf 0.20). The mixture was evaporated to dryness. The crude product was purified by column chromatography (200 g EM Science silica gel 60 230-400 mesh; 10% ethyl actetate, 1% AcOH, heptane) yielding 2.6 g (30.7%). 1H NMR (CDDl3): δ3.65 (t, 2H, J=6.59 Hz), 2.66 (t, 2H, J=7.41 Hz), 1.82-1.72 (m, 2H), 1.60-1.53 (m, 2H), 1.41-1.31 (m, 10H). Mass spectrum (FAB+), m/z 355 (MH+).

reactant | 10-hydroxydecanoic acid | 23.9 mmole, 4.5 g | OCCCCCCCCCC(=O)O | C10H20O3
reactant | triethylsilyl chloride | 33.5 mmole, 5.6 mL | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | Triethylamine | 28.7 mmole, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | pentafluorophenyl trifluoroacetate | 15.9 mmole, 2.7 mL | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Pentafluorophenyl 10-hydroxydecanoate | OCCCCCCCCCC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C16H19F5O3
